US09283555B2
N1-(2-isopropyl-6-methylphenyl)-N2-(diisopropyl-phosphino)-4-methylbenzamidine (NP Amidine IX)
Procedure as described for NP Amidine I using the following amounts: 1.33 g of N1-(2-isopropyl-6-methylphenyl)-4-methylbenzamidine (Amidine V, 5.0 mmol), 2.50 mL of 2.0 M butyllithium (5.0 mmol), 0.80 mL chlorodiisopropylphosphine (5.0 mmol). After filtration to remove lithium chloride and removal of solvent, a yellow semi-solid was isolated (1.86 g, 97%).

reactant | N1-(2-isopropyl-6-methylphenyl)-4-methylbenzamidine | 5.0 mmol, 1.33 g | C(C)(C)C1=C(C(=CC=C1)C)NC(C1=CC=C(C=C1)C)=N | C18H22N2
reactant | butyllithium | 5.0 mmol, 2.0 M, 2.50 mL | C(CCC)[Li]
reactant | chlorodiisopropylphosphine | 5.0 mmol, 0.80 mL | ClP(C(C)C)C(C)C | C6H14ClP
product | N1-(2-isopropyl-6-methylphenyl)-N2-(diisopropyl-phosphino)-4-methylbenzamidine | C(C)(C)C1=C(C(=CC=C1)C)NC(C1=CC=C(C=C1)C)=NP(C(C)C)C(C)C | C24H35N2P
